US07544685B2
2d, 2-((−)-(R)-3-{2-[4-(1H-Indol-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indol-1-yl)-acetamide dihydrochloride
from 5-{4-[(R)-2-(2,3-dihydro-1H-indol-3-yl)-ethyl]-piperazin-1-yl}-1H-indole and 2-chloroacetamide. Assignment of the optical rotation was done in dimethyl sulfoxide.

reactant | 5-{4-[(R)-2-(2,3-dihydro-1H-indol-3-yl)-ethyl]-piperazin-1-yl}-1H-indole | N1C[C@@H](C2=CC=CC=C12)CCN1CCN(CC1)C=1C=C2C=CNC2=CC1 | C22H26N4
reactant | 2-chloroacetamide | ClCC(=O)N | C2H4ClNO
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 2-((−)-(R)-3-{2-[4-(1H-Indol-5-yl)-piperazin-1-yl]-ethyl}-2,3-dihydro-1H-indol-1-yl)-acetamide dihydrochloride | Cl.Cl.N1C=CC2=CC(=CC=C12)N1CCN(CC1)CC[C@H]1CN(C2=CC=CC=C12)CC(=O)N | InChI=1S/C24H29N5O.2ClH/c25-24(30)17-29-16-19(21-3-1-2-4-23(21)29)8-10-27-11-13-28(14-12-27)20-5-6-22-18(15-20)7-9-26-22;;/h1-7,9,15,19,26H,8,10-14,16-17H2,(H2,25,30);2*1H/t19-;;/m0../s1
